US08623859B2
4-methoxy-N,2,6-trimethyl-N-[(4-{[4-(2-pyridin-4-ylethyl)piperazin-1-yl]carbonyl}furan-2-yl)methyl]benzenesulfonamide
The title compound was prepared according to general procedure AA using 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (63 mg, 0.18 mmol), CDI (58 mg, 0.36 mmol) and 1-[2-(pyridin-4-yl)ethyl]piperazine (57 mg, 0.30 mmol) in DCE (4.5 mL). The crude product was purified using Ambersep and PL-MIA resins, then using prep method A.

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.18 mmol, 63 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | CDI | 0.36 mmol, 58 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-[2-(pyridin-4-yl)ethyl]piperazine | 0.30 mmol, 57 mg | N1=CC=C(C=C1)CCN1CCNCC1 | C11H17N3
solvent | DCE | 4.5 mL | ClCCCl | C2H4Cl2
product | 4-methoxy-N,2,6-trimethyl-N-[(4-{[4-(2-pyridin-4-ylethyl)piperazin-1-yl]carbonyl}furan-2-yl)methyl]benzenesulfonamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(CC=1OC=C(C1)C(=O)N1CCN(CC1)CCC1=CC=NC=C1)C)C | C27H34N4O5S
